US05684017
2-(4-Methoxybenzoyl)-4-benzenesulfonylimino-4H-chromene
Combine 2-(4-methoxybenzoyl)-chromone (1 mmol) and benzenesulfonyl isocyanate (1.2 mmol) in acetonitrile (7.0 mL). Heat at reflux for 48 hours. Add methanol (5 mL) to quench the reaction. Evaporate in vacuo. Recrystallize to give the title compound.

reactant | 2-(4-methoxybenzoyl)-chromone | 1 mmol | COC1=CC=C(C(=O)C=2OC3=CC=CC=C3C(C2)=O)C=C1 | C17H12O4
reactant | benzenesulfonyl isocyanate | 1.2 mmol | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | acetonitrile | 7.0 mL | C(C)#N | C2H3N
product | 2-(4-Methoxybenzoyl)-4-benzenesulfonylimino-4H-chromene | COC1=CC=C(C(=O)C=2OC3=CC=CC=C3C(C2)=NS(=O)(=O)C2=CC=CC=C2)C=C1 | C23H17NO5S
